US08389717B2
b) [4,6-Bis-(2-trifluoromethyl-phenoxy)-[1,3,5]triazin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
A mixture of 2-hydroxybenzotrifluoride (95 mg, 0.59 mmol) and potassium carbonate (87 mg, 0.63 mmol) in 10 ml of acetonitrile was treated with (4,6-dichloro-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine. The suspension was refluxed overnight, diluted with water and extracted with ethyl acetate. Chromatography on silica gel using ethyl acetate as the eluent gave the title compound (17 mg, 10%) as a slightly brownish solid.

reactant | 2-hydroxybenzotrifluoride | 0.59 mmol, 95 mg | OC1=C(C=CC=C1)C(F)(F)F | C7H5F3O
reactant | potassium carbonate | 0.63 mmol, 87 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (4,6-dichloro-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=NC(=NC(=N1)Cl)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C14H12Cl2N6O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | [4,6-Bis-(2-trifluoromethyl-phenoxy)-[1,3,5]triazin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 17 mg, 10% | FC(C1=C(OC2=NC(=NC(=N2)OC2=C(C=CC=C2)C(F)(F)F)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C=CC=C1)(F)F | C28H20F6N6O3
